US08183793B2
(ii) Synthesis of 9-bromo-10-(4-tert-butylphenyl)anthracene
5.0 g (16.0 mmol) of 9-(4-tert-butylphenyl)anthracene and 90 mL of carbon tetrachloride were put into a 500-mL three-neck flask and were stirred. A solution in which 2.8 g (18 mmol) of bromine was dissolved in 10 mL of carbon tetrachloride was dropped into the above solution through a dropping funnel. After that, the solution was stirred at the room temperature for 1 hour, and a sodium thiosulfate aqueous solution was added to the reaction solution to complete the reaction. A water layer of the reaction mixture was extracted by chloroform, and the extracted solution and an organic layer were together washed with a saturated sodium hydrogen carbonate solution and saturated saline. The organic layer was dried with magnesium sulfate, and the mixture was filtrated naturally to remove the magnesium sulfate. Then, the filtrate was condensed to obtain a solid. The obtained solid was recrystallized with ethanol, whereby 6.3 g of a yellow powdery solid, which was a target matter, was obtained with the yield of 99%.

reactant | 9-(4-tert-butylphenyl)anthracene | 16.0 mmol, 5.0 g | C(C)(C)(C)C1=CC=C(C=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C24H22
reactant | bromine | 18 mmol, 2.8 g | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 90 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 9-bromo-10-(4-tert-butylphenyl)anthracene | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C=C1)C(C)(C)C | C24H21Br
